US06498154B1
2-Fluoro-5-(2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)benzonitrile
Prepared according to the coupling procedure for Example 13 from 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine and 5-bromo-2-fluorobenzonitrile. A white solid: mp 184-186° C.; 1H-NMR (DMSO-d6) δ 8.17 (dd, 1H, J=5.86, 3.42 Hz), 8.00-7.98 (m, 1H), 7.52 (t, 1H, J=9.28 Hz), 7.45 (d, 1H, J=1.95 Hz), 7.34 (dd, 1H, J=8.30, 1.95 Hz), 6.63 (d, 1H, J=8.3 Hz), 6.45 (d, 1H), 4.8 (q, 1H, J=5.37 Hz), 1.53 (s, 3H), 1.49 (s, 3H), 1.29 (d, 3H, J=5.37 Hz); MS (ES) m/z 297 ([M+H]+).

reactant | 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C11H14BrNO
reactant | 5-bromo-2-fluorobenzonitrile | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
product | 2-Fluoro-5-(2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)benzonitrile | FC1=C(C#N)C=C(C=C1)C=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C18H17FN2O
